US04048332
A solution of 2-(2',4'-difluoro-2-hydroxy-4-biphenylyl)propionic acid (4.5 g.) in absolute ethanol (50 ml.) containing concentrated sulphuric acid (2 ml.) was refluxed overnight (16 hours). After distillation of ethanol the residue was poured onto ice-water and the product was isolated in ether. The extracts were washed with dilute sodium bicarbonate dried and evaporated. The solid residue thus obtained was purified by two crystallisations from light petrol (b.p. 62°-68° C.), to give ethyl 2-(2',4'-difluoro-2-hydroxy-4-biphenylyl)propionate, m.p. 72°-73° C.

reactant | 2-(2',4'-difluoro-2-hydroxy-4-biphenylyl)propionic acid | 4.5 g | FC1=C(C=CC(=C1)F)C1=C(C=C(C=C1)C(C(=O)O)C)O | C15H12F2O3
reactant | sulphuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | ethyl 2-(2',4'-difluoro-2-hydroxy-4-biphenylyl)propionate | FC1=C(C=CC(=C1)F)C1=C(C=C(C=C1)C(C(=O)OCC)C)O | C17H16F2O3
